US05055481
A mixture of 100 mg of methyl 5phenyl-1-tetrazoleacetate, 0.6 ml of acetic acid and 1 ml of a 4N-hydrochloric acid was stirred at 80°to 90° C. for 2 hours. The reaction solution was evaporated under reduced pressure. The precipitated solid was filtered, washed with cold water and recrystallized from 50% ethanol-water, to give 64.1 mg (yield: 69.2%) of 5-phenyltetrazole-1-acetic acid.

reactant | methyl 5phenyl-1-tetrazoleacetate | 100 mg | C1(=CC=CC=C1)C1=NN=NN1CC(=O)OC | C10H10N4O2
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
product | 5-phenyltetrazole-1-acetic acid | 64.1 mg, yield: 69.2% | C1(=CC=CC=C1)C1=NN=NN1CC(=O)O | C9H8N4O2
